US09447084B2
Methyl 4-bromo-3-(bromomethyl)benzoate
Into a 500-mL round-bottom flask, was placed a solution of methyl 4-bromo-3-methylbenzoate (10 g, 43.65 mmol, 1.00 equiv) in CCl4 (150 ml), NBS (8.12 g, 45.62 mmol, 1.05 equiv). The resulting solution was heated to reflux overnight under 100 w incandescent bulb. The solids were filtered out. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:30-1:10). This resulted in 6 g (47%) of methyl 4-bromo-3-(bromomethyl)benzoate as a off-white solid.

reactant | methyl 4-bromo-3-methylbenzoate | 43.65 mmol, 10 g, 1.00 equiv | BrC1=C(C=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | NBS | 45.62 mmol, 8.12 g, 1.05 equiv | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 4-bromo-3-(bromomethyl)benzoate | BrC1=C(C=C(C(=O)OC)C=C1)CBr | C9H8Br2O2
